US09301951B2
3-(3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylamino)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of methyl 3-(3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)-benzylamino)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoate (300 mg, 0.35 mmol, 1.00 equiv, 78%) in tetrahydrofuran/H2O (20/5 mL), and LiOH (150 mg, 10.00 equiv, 40%). The resulting solution was stirred for 2 h at room temperature. The reaction progress was monitored by LCMS. The solution was adjusted to pH 6-7 with hydrochloric acid (1 N). The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 1×20 mL of ethoxyethane. The resulting mixture was concentrated under vacuum. The crude product (250 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA to afford the product (27 mg, 10%) as a yellow oil. 1H-NMR (300 MHz, DMSO-d6, ppm) δ 13.49 (s, 1H), 10.05 (m, 1H), 8.89 (m, 1H), 8.02 (m, 1H), 7.68 (m, 4H), 7.37 (m, 5H), 7.08 (m, 1H), 6.91 (m, 2H), 6.28 (m, 1H), 3.80 (s, 2H), 3.23 (s, 4H), 2.27 (m, 2H), 1.63 (s, 6H). MS (ES, m/z): 649 [M+H]+.

reactant | methyl 3-(3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)-benzylamino)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoate | 0.35 mmol, 300 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC)C=CC1)C1=NC=CC(=C1)NCC1=CC(=CC=C1)C(F)(F)F | C36H37F3N4O3S
reactant | LiOH | 150 mg, 10.00 equiv | [Li+].[OH-]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran H2O | 5 mL | O1CCCC1.O
product | 3-(3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylamino)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoic acid | 27 mg, 10% | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C1=NC=CC(=C1)NCC1=CC(=CC=C1)C(F)(F)F | C35H35F3N4O3S
